US07358248B2
(2R)-tert-Butoxycarbonylamino-3-(4′-indol-1-ylbiphen-4-ylmethylsulfanyl)-propionic acid
1N Sodium hydroxide solution (2.14 mL, 2.14 mmol) was added dropwise to a stirred solution of (2R)-Methyl-tert-butoxycarbonylamino-3-(4′-indol-1-ylbiphen-4-ylmethylsulfanyl)-propionate (552 mg, 1.07 mmol) in tetrahydrofuran (15 mL) and methanol (3 mL). The clear reaction mixture was stirred at room temperature until the reaction was complete (TLC control), and then diluted with water (10 mL), and acidified to pH 3 with 2N hydrochloric acid. The reaction mixture was extracted with ethyl acetate (2×20 mL). The combined extract was washed with water, brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification of the product by flash column chromatography, using 5-10% methanol in methylene chloride as eluent, afforded the title compound has a white solid (486 mg, 90%), m.pt. 171-173° C. Rf: 0.35 (10% methanol in dichloromethane); 1H NMR (DMSO-d6, 300 MHz): δ 7.86 (2H, d, J=8 Hz, Ar—H), 7.68 (6H, m, Ar—H), 7.61 (1H, d, J=8 Hz, Ar—H), 7.43 (2H, d, J=8 Hz, Ar—H), 7.11-7.22 (2H, m, Ar—H), 6.80 (1H, br s, NH), 6.72 (1H, d, J=3.5 Hz, Ar—H), 4.06 (1H, m, CHN), 3.80 (2H, s, PhCH2), 2.86 (1H, dd, J=13, 5 Hz, CHHCHN), 2.72 (1H, dd, J=13, 8 Hz, CHHCHN), 1.40 (9H, s, CMe3), ESI-LCMS e/z calcd for C29H30N2O4S: 502.632, found 503 (M+H)+, 525 (M+Na)+.

reactant | Sodium hydroxide | 2.14 mmol, 1N, 2.14 mL | [OH-].[Na+]
reactant | (2R)-Methyl-tert-butoxycarbonylamino-3-(4′-indol-1-ylbiphen-4-ylmethylsulfanyl)-propionate | 1.07 mmol, 552 mg | C[C@@](C(=O)[O-])(CSCC1=CC=C(C=C1)C1=CC=C(C=C1)N1C=CC2=CC=CC=C12)NC(=O)OC(C)(C)C
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | (2R)-tert-Butoxycarbonylamino-3-(4′-indol-1-ylbiphen-4-ylmethylsulfanyl)-propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CSCC1=CC=C(C=C1)C1=CC=C(C=C1)N1C=CC2=CC=CC=C12 | C29H30N2O4S
